US06310056B1
pivaloyloxymethyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate
To a suspension of 42.1 mg of (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylic acid 10 ml of water was added 1.3 ml of a 0.1 N aqueous sodium hydrogen carbonate solution, and the mixture was stirred at room temperature for 1 hour to form a solution, which was then lyophilized. The lyophilized product was dissolved in 1 ml of dry DMF, 0.034 ml of iodomethyl pivalate was added under the atmosphere of argon at −30° C., and the mixture was stirred for 1.5 hours during which the temperature was raised up to −10° C. The reaction mixture was diluted with 20 ml of ethyl acetate, and washed with semi-saturated aqueous saline. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to a volume of 3 ml, The residue thus obtained was purified by column chromatography on silica gel (chloroform:methanol=15:1) and on Sephadex LH-20 (chloroform:methanol=1:1) in this sequence to give 27.2 mg of the title compound.

reactant | (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylic acid | 10 ml, 42.1 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C=2N3C(SC2)=CN=C3)C(=O)O)C1=O | C14H13N3O4S
reactant | water | O | H2O
reactant | sodium hydrogen carbonate | 0.1 N | C(O)([O-])=O.[Na+]
reactant | iodomethyl pivalate | 0.034 ml | C(C(C)(C)C)(=O)OCI | C6H11IO2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | pivaloyloxymethyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate | 27.2 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C=2N3C(SC2)=CN=C3)C(=O)OCOC(C(C)(C)C)=O)C1=O | C20H23N3O6S
